US08026234B2
Compound 106: (R)-4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-(2-hydroxyethyl)piperidin-4-yl)-3-methoxybenzamide
The title compound was synthesized from (R)-4-(9-cyclohexyl-7-fluoro-7-vinyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and 2-(4-aminopiperidin-1-yl)ethanol. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.47-2.14 (m, 15H) 2.38 (t, J=6.32 Hz, 3H) 2.89 (d, J=11.62 Hz, 2H) 3.28 (s, 3H) 3.49 (q, J=6.23 Hz, 2H) 3.67-3.85 (m, 3H) 3.94 (s, 3H) 4.37 (t, J=5.43 Hz, 1H) 4.89 (d, J=8.34 Hz, 1H) 5.28-5.48 (m, 2H) 6.01 (ddd, J=17.56, 12.76, 10.86 Hz, 1H) 7.40-7.54 (m, 2H) 7.82 (s, 1H) 8.10 (d, J=7.58 Hz, 2H) 8.30 (d, J=8.34 Hz, 1H). [M+H] calc'd for C30H40FN7O4, 582. found 582.

reactant | (R)-4-(9-cyclohexyl-7-fluoro-7-vinyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C([C@](C1)(C=C)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C24H28FN5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-(4-aminopiperidin-1-yl)ethanol | NC1CCN(CC1)CCO | C7H16N2O
product | (R)-4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-(2-hydroxyethyl)piperidin-4-yl)-3-methoxybenzamide | C1(CCCC1)N1C2=C(N(C([C@](C1)(C=C)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)CCO)C=C2)OC | C30H40FN7O4
